US05708008
5-(pyridine-2-carbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 19.0 mg (0.15 mMol pyridine-2-carboxylic acid, 14.2 mg (85%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | pyridine-2-carboxylic acid | 0.15 mMol | N1=C(C=CC=C1)C(=O)O | C6H5NO2
product | 5-(pyridine-2-carbonyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 14.2 mg, 85% | N1=C(C=CC=C1)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C20H22N4O
